US08008342B2
(i) (1R,2R)/(1S,2S)-2-(3-Thiazolidinyl)cyclohexanol
To anhydrous magnesium perchlorate (12.93 g, 53.3 mmol) was added a solution of cyclohexene oxide (6.1 mL, 58.6 mmol) in anhydrous acetonitrile (25 mL) and the resulting mixture was stirred at room temperature for 20 min. Then a solution of thiazolidine (5.16 g, 55.0 mmol) in anhydrous acetonitrile was added and the reaction mixture was heated at 35° C. for 16 hours. The reaction mixture was concentrated in vacuo and the residue was partitioned between water (350 mL) and diethyl ether (350 mL). The aqueous layer was separated and extracted once more with diethyl ether (350 mL). The combined organic extracts were dried over sodium sulfate and concentrated in vacuo to provide the crude product. The crude aminoalcohol was purified by dry-column chromatography with a mixture of ethyl acetate-hexanes (1:1, v/v) as eluent to yield 4.83 g (47% yield) of the title compound.

reactant | magnesium perchlorate | 53.3 mmol, 12.93 g | Cl(=O)(=O)(=O)[O-].[Mg+2].Cl(=O)(=O)(=O)[O-]
reactant | cyclohexene oxide | 58.6 mmol, 6.1 mL | C12C(CCCC1)O2 | C6H10O
reactant | thiazolidine | 55.0 mmol, 5.16 g | S1CNCC1 | C3H7NS
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | (1S,2S)-2-(3-Thiazolidinyl)cyclohexanol | 4.83 g, 47% yield | S1CN(CC1)[C@@H]1[C@H](CCCC1)O | C9H17NOS
